US05389614
2a. N-Methyl-L-arginine methyl ester dihydrochloride
6.4 ml of thionyl chloride are added dropwise to a suspension of 15.06 g of N-methylarginine in 50 ml of absolute methanol at -10° C. The mixture is then allowed to come to room temperature, while stirring. Since starting material is still present after a reaction time of 17 hours, a further 9.6 ml of thionyl chloride are added in portions, the mixture is heated at 40° C. for 4 hours, the insoluble material is filtered off with suction and the filtrate is concentrated. The oily residue is dissolved in water, the insoluble material is filtered off and the product is freeze-dried.

reactant | thionyl chloride | 6.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-methylarginine | 15.06 g | CN[C@@H](CCCNC(N)=N)C(=O)O | C7H16N4O2
reactant | thionyl chloride | 9.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 ml | CO | CH4O
product | N-Methyl-L-arginine methyl ester dihydrochloride | Cl.Cl.COC([C@@H](NC)CCCNC(N)=N)=O | InChI=1S/C8H18N4O2.2ClH/c1-11-6(7(13)14-2)4-3-5-12-8(9)10;;/h6,11H,3-5H2,1-2H3,(H4,9,10,12);2*1H/t6-;;/m0../s1
